US08629137B2
Step 3: (6-chloro-pyrimidin-4-yl)-(7-methyl-2,3-dihydro-benzofuran-5-yl)-methanone
0.396 g (2.24 mmol) 6-chloropyrimidine-4-carboxylic acid chloride and 0.328 g (2.46 mmol) aluminium trichloride in 10 mL DCM were stirred for 20 min at RT. Then 0.300 g (2.24 mmol) 7-methyl-2,3-dihydro-benzofuran in DCM were added dropwise to the reaction mixture and this was stirred for 1.5 h at RT. After the addition of water and DCM to the reaction mixture the phases were separated and the aqueous phase was extracted with DCM. The combined organic phases were washed with saturated aqueous sodium hydrogen carbonate solution, dried on sodium sulphate, filtered and evaporated down i. vac.

reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 2.24 mmol, 0.396 g | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | aluminium trichloride | 2.46 mmol, 0.328 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 7-methyl-2,3-dihydro-benzofuran | 2.24 mmol, 0.300 g | CC1=CC=CC=2CCOC21 | C9H10O
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-pyrimidin-4-yl)-(7-methyl-2,3-dihydro-benzofuran-5-yl)-methanone | ClC1=CC(=NC=N1)C(=O)C=1C=C(C2=C(CCO2)C1)C | C14H11ClN2O2
